US04271167
A 50% by weight aqueous solution of chloroacetaldehyde (37.7 g) is added at 10° C., to a solution of triethylammonium pyrid-2-yldithiocarbamate (65.4 g) in dimethylformamide (300 cc). The reaction is allowed to proceed for 16 hours at 20° C. After evaporating off the solvents under pressure (0.1 mm Hg) at 50° C., the residual oil is treated with chloroform (750 cc). The chloroform solution is washed twice with distilled water (200 cc in total), dried over sodium sulphate and evaporated. The oily residue (38 g) is dissolved in boiling ethanol (180 cc), and boiling isopropyl ether (180 cc) and decolourising charcoal (1 g) are added. After filtering the boiling solution and then cooling for 2 hours at 2° C., the crystals which have appeared are filtered off, washed with an ice-cooled mixture (50 cc in total) of ethanol (25 cc) and isopropyl ether (25 cc) and dried under reduced pressure (0.1 mm Hg) at 45° C. 4-Hydroxy-3-(pyrid-2-yl)thiazolidine-2-thione (17.8 g), which melts at 110° C., is thus obtained.

reactant | chloroacetaldehyde | 37.7 g | ClCC=O | C2H3ClO
reactant | triethylammonium pyrid-2-yldithiocarbamate | 65.4 g | N1=C(C=CC=C1)NC([S-])=S.C(C)[NH+](CC)CC
solvent | dimethylformamide | 300 cc | CN(C=O)C | C3H7NO
product | 4-Hydroxy-3-(pyrid-2-yl)thiazolidine-2-thione | 17.8 g | OC1N(C(SC1)=S)C1=NC=CC=C1 | C8H8N2OS2
